US08242260B2
To a sealable glass tube was charged 1,3-dibromo-2-chloro-5-fluorobenzene (12.52 g, 43.4 mmol), benzophenone imine (8.26 g, 45.6 mmol), sodium tert-butoxide (6.26 g, 65.1 mmol), and toluene (100 mL). The resulting mixture was thoroughly sparged with Argon, followed by the addition of Pd2(dba)3 (0.398 g, 0.434 mmol) and (S)-BINAP (0.81 g, 1.3 mmol), and follow by another Argon sparge. The reaction tube was sealed and heated to 85° C. in an oil bath and maintained overnight. The reaction was allowed to cool to room temperature and quenched with water (20 mL). The resulting layers were partitioned and separated. The organic phase was concentrated and assayed to be a mixture of mono- and bis-aminated products (˜4:1 by HPLC area at 220 nm). The residue was dissolved in THF (70 mL), treated with aqueous 3.0 M HCl (20 mL) at room temperature for 1 hour and basified with saturated aqueous Na2CO3 solution (40 mL). The reaction mixture was allowed to partition and the layers were separated. The organic portion was separated, washed with brine, concentrated and the resulting residue was purified by flash chromatography (SiO2, 0-15% EtOAc in heptane) and 3-bromo-2-chloro-5-fluoroaniline was obtained as a light yellow solid (6.82 g, 30.4 mmol): LCMS(m/z): not ionized (MH+), tR=0.95 minute; 1H NMR (CDCl3, 300 MHz) δ 4.32 (br s, 2H), 6.44 (dd, J=9.8, 2.8 Hz, 1H), 6.77 (dd, J=7.9, 2.6 Hz, 1H).

reactant | 1,3-dibromo-2-chloro-5-fluorobenzene | 43.4 mmol, 12.52 g | BrC1=C(C(=CC(=C1)F)Br)Cl | C6H2Br2ClF
reactant | benzophenone imine | 45.6 mmol, 8.26 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | sodium tert-butoxide | 65.1 mmol, 6.26 g | CC(C)([O-])C.[Na+]
reactant | (S)-BINAP | 1.3 mmol, 0.81 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
catalyst | Pd2(dba)3 | 0.434 mmol, 0.398 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 3-bromo-2-chloro-5-fluoroaniline | BrC=1C(=C(N)C=C(C1)F)Cl | C6H4BrClFN
